US07038048B2
N-(3-amino-propyl)-N-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-benzamide
To a mixture of N-{3-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-2-methyl-proplyamino]-propyl}-carbamic acid tert butyl ester (110 mg, 0.236 mmol), DIEA (82 μL, 0.473 mmol) and dichloromethane (2 mL) was added p-toluoyl chloride (47 μL, 0.354 mmol) dropwise. The reaction mixture was stirred at room temperature overnight, and then diluted with dichloromethane and washed with saturated sodium bicarbonate, water and brine. After concentration, the residue was subjected to flash silica gel chromatography using hexane-EtOAc (1:2) and EtOAc-MeOH (20:1) as eluent to give the corresponding crude acylated product, {3-[[1-(3-benzyl-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-2-methyl-proply]-(4-methyl-benzoyl)-amino]-propyl}-carbamic acid tert-butyl ester, which was then treated with 30% TFA in dichloromethane (3 mL) for 15 minutes, diluted with dichloromethane, washed with saturated sodium bicarbonate, water, and brine, and dried (Na2SO4). Concentration of the dichloromethane solution gave the title product, N-(3-amino-propyl)-N-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-benzamide, as a white solid (89 mg, 78%).

reactant | N-{3-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-2-methyl-proplyamino]-propyl}-carbamic acid tert butyl ester | 0.236 mmol, 110 mg | C(C)(C)(C)OC(NCCCNC(C(C)C)C=1N(C(C2=C(N1)N=CC=C2)=O)CC2=CC=CC=C2)=O | C26H35N5O3
reactant | DIEA | 0.473 mmol, 82 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | p-toluoyl chloride | 0.354 mmol, 47 μL | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | {3-[[1-(3-benzyl-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-2-methyl-proply]-(4-methyl-benzoyl)-amino]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN(C(C1=CC=C(C=C1)C)=O)C(C(C)C)C=1N(C(C2=C(N1)N=CC=C2)=O)CC2=CC=CC=C2)=O | C34H41N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(3-amino-propyl)-N-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-2-methyl-propyl]-4-methyl-benzamide | NCCCN(C(C1=CC=C(C=C1)C)=O)C(C(C)C)C=1N(C(C2=C(N1)N=CC=C2)=O)CC2=CC=CC=C2 | C29H33N5O2
